US06727247B2
(1S,4S)-2-Oxa-5-aza-bicyclo[2.2.1]heptane-5-carboxylic Acid (4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-amide
To a solution of 4-methoxy-7-morpholin-4-yl-benzothiazol-2-ylamine (265 mg, 1.0 mmol) in dichloromethane (15 ml) is subsequently added pyridine (0.24 ml, 3.0 mmol) and phenyl chloroformate (0.15 ml, 1.2 mmol) and the resulting solution stirred for 45 min at ambient temperature. Then (1S,4S)-2-oxa-5-aza-bicyclo[2.2.1]heptane (490 mg, 3.6 mmol) is added and the mixture stirred at ambient temperature for 15 min and at 40° C. for 2.5 h. After cooling to ambient temperature, saturated aqueous sodium carbonate (15 ml) is added, the organic phase is separated, dryed and the solvent evaporated in vacuo. Flash chromatography (silica, eluent: dichloromethane containing methanol (gradient from 0 to 5%)) afforded the title compound as white crystals (135 mg, 35% yield). MS: m/e=391(M+H+).

reactant | 4-methoxy-7-morpholin-4-yl-benzothiazol-2-ylamine | 1.0 mmol, 265 mg | COC1=CC=C(C2=C1N=C(S2)N)N2CCOCC2 | C12H15N3O2S
reactant | pyridine | 3.0 mmol, 0.24 ml | N1=CC=CC=C1 | C5H5N
reactant | phenyl chloroformate | 1.2 mmol, 0.15 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | (1S,4S)-2-oxa-5-aza-bicyclo[2.2.1]heptane | 3.6 mmol, 490 mg | [C@@H]12OC[C@@H](NC1)C2 | C5H9NO
reactant | sodium carbonate | 15 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | (1S,4S)-2-Oxa-5-aza-bicyclo[2.2.1]heptane-5-carboxylic Acid (4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-amide | 135 mg, 35% yield | COC1=CC=C(C2=C1N=C(S2)NC(=O)N2[C@@H]1CO[C@H](C2)C1)N1CCOCC1 | C18H22N4O4S
